US04018777
2-[4-Isopropyl-3-pyridyl]-5-(3-methyl-2-octyl)resorcinol was prepared by treating 1,3-diacetyl-2-[4-isopropyl-3-pyridyl]-5-(3-methyl-2-octyl)resorcinol with ammonia according to the procedure of Example 5.

reactant | 1,3-diacetyl-2-[4-isopropyl-3-pyridyl]-5-(3-methyl-2-octyl)resorcinol | C(C)(=O)C1(O)C(C(O)(CC(=C1)C(C)C(CCCCC)C)C(C)=O)C=1C=NC=CC1C(C)C | C27H41NO4
reactant | ammonia | N | H3N
product | 2-[4-Isopropyl-3-pyridyl]-5-(3-methyl-2-octyl)resorcinol | C(C)(C)C1=C(C=NC=C1)C1=C(O)C=C(C=C1O)C(C)C(CCCCC)C | C23H33NO2
